US06664256B1
(3) Preparation of 4-(4-chlorophenyl)-6-methyl-3-[4(methylthio)phenyl]pyridazine
Hydrazine hydrate (72 mg, 1.44 mmol) was added to a solution of 4-(4-chlorophenyl)-5-[4-(methylthio)phenyl]pentane-2,5-dione (317 mg, 0.953 mmol) in ethanol (6 ml), and the resulting mixture was stirred for 7 hours at a bath temperature of 80° C. Water was added to the reaction mixture, followed by extraction with ethyl acetate. The extract was washed successively with water and brine, and was then dried over anhydrous sodium sulfate. The solvent was distilled off and the residue (320 mg) was dissolved in chloroform. The thus-obtained solution was stirred at room temperature for 7 hours to conduct air oxidation. The solvent was distilled off and the residue (296 mg) was separated and purified by preparative thin-layer chromatography on silica gel (developing solvent: chloroform), whereby the title compound was obtained as a pale yellow oil (200.5 mg, 64.3%).

reactant | Hydrazine hydrate | 1.44 mmol, 72 mg | O.NN
reactant | 4-(4-chlorophenyl)-5-[4-(methylthio)phenyl]pentane-2,5-dione | 0.953 mmol, 317 mg | ClC1=CC=C(C=C1)C(CC(C)=O)C(=O)C1=CC=C(C=C1)SC | C18H17ClO2S
reactant | Water | O | H2O
solvent | ethanol | 6 ml | C(C)O | C2H6O
product | 4-(4-chlorophenyl)-6-methyl-3-[4(methylthio)phenyl]pyridazine | 200.5 mg, 64.3% | ClC1=CC=C(C=C1)C1=C(N=NC(=C1)C)C1=CC=C(C=C1)SC | C18H15ClN2S
